US07795278B2
Ethyl 2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propionate (Compound 1)
20.87 g (0.141 mol) of phthalic anhydride together with 16.5 g (0.141 mol) of ethyl aminopropionate in an open round-bottom flask at 120° C. for 5 h. 300 ml of cyclohexane are added, and the mixture is heated to reflux. The hot cyclohexane solution is decanted off from the remaining oil and completely concentrated. A slowly solidifying viscous oil is obtained (31 g, 89% yield).

reactant | phthalic anhydride | 0.141 mol, 20.87 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | ethyl aminopropionate | 0.141 mol, 16.5 g | NC(C(=O)OCC)C | C5H11NO2
solvent | cyclohexane | 300 ml | C1CCCCC1 | C6H12
product | Ethyl 2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propionate | 89% yield | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC)C | C13H13NO4
